US08133995B2
N-{4-[4-amino-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-methylphenyl}-N′-[4-(trifluoromethyl)pyridin-2-yl]urea
The title compound was prepared in a manner similar to the procedure described for the preparation of Example 117 Step 4, using 5-bromo-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine in place of 5-bromo-6-methyl-7-(1,4-oxazepan-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine and Intermediate AAI (1-[2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-[4-(trifluoromethyl)pyridin-2-yl]urea) in place of Intermediate AAN (1-[2-fluoro-5-(trifluoromethyl)phenyl]-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea) 59 mg (36%) of the desired product was isolated. 1H-NMR (DMSO-d6) δ 10.19 (s, 1H), 9.52 (br s, 1H), 8.55 (d, J=5.1 Hz, 1H), 8.10 (d, J=8.4 Hz, 1H), 7.87 (s, 1H), 7.85 (s, 1H), 7.35 (d, J=4.8 Hz, 1H), 7.23 (s, 1H), 7.18 (dd, J=2.1, 8.7 Hz, 1H), 3.80 (s, 2H), 3.53-3.50 (m, 4H), 2.42-2.40 (m, 4H), 2.35 (s, 3H), 2.09 (s, 3H); MS [M+H]+=541.1; LCMS RT=2.49.

reactant | 5-bromo-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | BrC=1C(=C(N2N=CN=C(C21)N)CN2CCOCC2)C | C12H16BrN5O
reactant | 1-[2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-[4-(trifluoromethyl)pyridin-2-yl]urea | CC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)NC1=NC=CC(=C1)C(F)(F)F | C20H23BF3N3O3
reactant | 1-[2-fluoro-5-(trifluoromethyl)phenyl]-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C20H21BF4N2O3
product | N-{4-[4-amino-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-methylphenyl}-N′-[4-(trifluoromethyl)pyridin-2-yl]urea | 59 mg, 36% | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)C)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F)C | C26H27F3N8O2
